US07572784B2
[9-Chloro-7-(2-fluoro-phenyl)-5H-benzo[c]pyrimido[4,5-e]azepin-2-yl]-(3,4-dimethoxy-phenyl)-amine (I-71, 49 mg, 0.10 mmol) was dissolved in dichloromethane (1.8 mL). Acetic acid (0.43 mL) was added and the solution was stirred and cooled to 0° C. Zinc dust (20 mg, 0.31 mmol) was then added and the mixture was stirred at 0° C. for 1 hour and then allowed to warm to room temperature and stir for 4 hours. Additional zinc dust (10 mg, 0.15 mmol) and acetic acid (0.22 mL) was added and the mixture was stirred at room temperature for 20 hours. The reaction mixture was diluted with dichloromethane. The organic layer was separated and washed with 1N NaOH, brine and then dried over magnesium sulfate, filtered and concentrated in vacuo. The yellow powder was purified by column chromatography (silica gel, ethyl acetate) to afford [9-Chloro-7-(2-fluoro-phenyl)-6,7-dihydro-5H-benzo[c]pyrimido[4,5-e]azepin-2-yl]-(3,4-dimethoxy-phenyl)-amine (I-72) as an orange solid (32 mg, 65%): MS m/z=477.

reactant | [9-Chloro-7-(2-fluoro-phenyl)-5H-benzo[c]pyrimido[4,5-e]azepin-2-yl]-(3,4-dimethoxy-phenyl)-amine | 0.10 mmol, 49 mg | ClC=1C=CC2=C(C(=NCC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)C3=C(C=CC=C3)F)C1 | C26H20ClFN4O2
reactant | Acetic acid | 0.43 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.22 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
catalyst | Zinc | 0.31 mmol, 20 mg | [Zn] | Zn
catalyst | zinc | 0.15 mmol, 10 mg | [Zn] | Zn
product | [9-Chloro-7-(2-fluoro-phenyl)-6,7-dihydro-5H-benzo[c]pyrimido[4,5-e]azepin-2-yl]-(3,4-dimethoxy-phenyl)-amine | 32 mg, 65% | ClC=1C=CC2=C(C(NCC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)C3=C(C=CC=C3)F)C1 | C26H22ClFN4O2
